US03996280
Preparation of 1-(2,2,2-Trifluoroethoxy)-2-Naphthoic Acid
A mixture of 10 g. (35 mmoles) of methyl 1-(2,2,2-trifluoroethoxy)-2-naphthoate, 2.9 g., (42 mmoles) of potassium hydroxide, 50 ml. of ethanol and 40 ml. of water is refluxed for one hour, chilled and acidified. The fluffy precipitate is collected, water washed, and air-dried. It is purified by recrystallization first from chloroform and then from aqueous alcohol, m.p. 171.5°-172° C.

reactant | methyl 1-(2,2,2-trifluoroethoxy)-2-naphthoate | 35 mmoles | FC(COC1=C(C=CC2=CC=CC=C12)C(=O)OC)(F)F | C14H11F3O3
reactant | potassium hydroxide | 42 mmoles | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-(2,2,2-Trifluoroethoxy)-2-Naphthoic Acid | FC(COC1=C(C=CC2=CC=CC=C12)C(=O)O)(F)F | C13H9F3O3
